US05977110
A mixture of trans-2-[4-(pyrimidin-2-ylamino)-cyclohexyl]-ethanol (1.51 g, 6.9 mmol) is dissolved in a solution of methylene chloride (25 mL) containing polymer supported triphenylphosphine (2.87 g, approx 8.6 mmol). The mixture is cooled in an ice water bath, and carbon tetrabromide (2.3 g, 7.0 mmol) is added. The reaction is stirred for 1 hour, and the polymeric material was removed by filtration. The filtrate is concentrated and chromatographed on silica gel using a 2:1 mixture of chloroform and ethyl acetate (EtOAc) as the solvent to give trans-[4-(2-Bromoethyl)-cyclohexyl]-pyrimidin-2-yl-amine.

reactant | trans-2-[4-(pyrimidin-2-ylamino)-cyclohexyl]-ethanol | 6.9 mmol, 1.51 g | N1=C(N=CC=C1)N[C@@H]1CC[C@H](CC1)CCO | C12H19N3O
reactant | triphenylphosphine | approx 8.6 mmol, 2.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 7.0 mmol, 2.3 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | trans-[4-(2-Bromoethyl)-cyclohexyl]-pyrimidin-2-yl-amine | BrCC[C@@H]1CC[C@H](CC1)NC1=NC=CC=N1 | C12H18BrN3
